US07728137B2
Tris(2-bromo-6-pyridyl)phosphine oxide
A suspension, heated to boiling, of 50.2 g (100.0 mmol) of tris(2-bromo-6-pyridyl)phosphine in 500 ml of chloroform was admixed with intensive stirring dropwise with a mixture of 11 ml of 35% by weight H2O2 and 50 ml of water, which afforded a clear solution. After stirring under reflux for 5 h, the solution was allowed to cool to room temperature. The solution was washed with 500 ml of water, and the organic phase was removed and concentrated to 50 ml under reduced pressure. After standing for 2 h, the precipitated crystals were filtered off, washed three times with 100 ml of n-hexane and then dried at 70° C. under reduced pressure. The yield at a purity of 99.0% was 47.1 g (90.9%).

reactant | tris(2-bromo-6-pyridyl)phosphine | 100.0 mmol, 50.2 g | BrC1=NC(=CC=C1)P(C1=CC=CC(=N1)Br)C1=CC=CC(=N1)Br | C15H9Br3N3P
reactant | H2O2 | OO | H2O2
reactant | water | 50 ml | O | H2O
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | Tris(2-bromo-6-pyridyl)phosphine oxide | BrC1=NC(=CC=C1)P(C1=CC=CC(=N1)Br)(C1=CC=CC(=N1)Br)=O | C15H9Br3N3OP
